US05068231
1-[3-(4-Bromophenoxy)-1-azetidinylcarbonyl]-4-methylpiperazine furmarate [1:1]
A solution of 2.9 g (0.01 mole) of 3-(4-bromophenoxy)-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated while stirring with 1 g (0.01 mole) of 1-methylpiperazine and stirred for 2 hr. The paste-like slurry was diluted with water and the solid was collected by filtration (4 g, wet). Recrystallization from benzene/ligroin yielded 3.0 g of white crystalline product, m.p. 91°-95° C. The solid and 1.16 g of fumaric were dissolved in isopropanol by boiling until a clear solution was obtained. Upon cooling, the precipitated salt was collected by filtration to yield 3 g (63.8%) of fine white crystals, m.p. 197°-198° C.

reactant | 3-(4-bromophenoxy)-1-azetidinecarbonyl chloride | 0.01 mole, 2.9 g | BrC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9BrClNO2
reactant | 1-methylpiperazine | 0.01 mole, 1 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-(4-Bromophenoxy)-1-azetidinylcarbonyl]-4-methylpiperazine | 3.0 g | BrC1=CC=C(OC2CN(C2)C(=O)N2CCN(CC2)C)C=C1 | C15H20BrN3O2
